2195-07-29 15:34:00 Physician Resident Progress Note
Chief Complaint: 82 yo M with h/o dementia, seizure disorder and
   chronic aspiration events, s/p PEG placement, transferred from rehab
   facility ([**Hospital3 213**]) in respiratory distress secondary to
   aspiration PNA, s/p nasotracheal intubation in ED.
   24 Hour Events:
   - New rash noted this AM. Pt has received vanc and penicillin in the
   past with no known allergy.
   - Talked to brother, who confirmed full code status.
   - Continued copious secretions, which have been suctioned.
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2195-7-29**] 01:13 AM
   Vancomycin - [**2195-7-29**] 08:20 AM
   Levofloxacin - [**2195-7-29**] 10:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-7-29**] 12:00 AM
   Other medications:
   1. Acetaminophen 325-650 mg PO Q6H:PRN
   2. Albuterol-Ipratropium [**12-24**] PUFF IH Q4H:PRN
   3. Augmentin Suspension 500 mg NG Q8H  Order date: [**7-29**] @ 1015
   4. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   Use only if patient is on mechanical ventilation.
   5. Docusate Sodium (Liquid) 100 mg PO BID
   hold for loose stools
   6. Fentanyl Citrate 25-100 mcg IV Q2H:PRN
   7. Heparin 5000 UNIT SC TID  Order date: [**7-28**] @ 0838
   8. Insulin SC  (per Insulin Flowsheet) Sliding Scale
   9. PHENObarbital 60 mg PO BID
   10. Sarna Lotion 1 Appl TP TID:PRN itching
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-7-29**] 03:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.7
C (99.9
   HR: 81 (79 - 94) bpm
   BP: 94/46(58) {93/46(57) - 131/85(94)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 90.1 kg
   Height: 69 Inch
             Total In:
                                                                  3,103 mL
                                                                    598 mL
   PO:
             TF:
   IVF:
                                                                  1,493 mL
                                                                    598 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                    900 mL
   Urine:
                                                                    855 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,248 mL
                                                                   -302 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 448 (448 - 647) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube
   Cardiovascular: (S1: Normal), (S2: Normal), Difficult to optimally
   assess heart sounds because of loud respiratory sounds.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   throughout bilaterally, Rhonchorous: loud rhonchi over large airways)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Rash: Fine, confluent, erythematous patches covering lower
   extremities, pelvis, and left arm
   Neurologic: Responds to: Verbal stimuli, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   243 K/uL
   11.5 g/dL
   107 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.4 mEq/L
   29 mg/dL
   105 mEq/L
   139 mEq/L
   34.1 %
   14.7 K/uL
        [image002.jpg]
                             [**2195-7-28**]  08:56 AM
                             [**2195-7-28**]  09:40 AM
                             [**2195-7-29**]  02:26 AM
   WBC
   14.7
   Hct
   34.1
   Plt
   243
   Cr
   0.9
   0.7
   TCO2
   26
   Glucose
   213
   107
   Other labs: PT / PTT / INR:15.1/34.1/1.3, Ca++:8.7 mg/dL, Mg++:2.0
   mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: Finger stick blood glucose: 104, 116
   Imaging:
   CXR:
   Portable AP chest radiograph was compared to [**2195-7-28**].
   The ET tube tip is 4.6 cm above the carina. The cardiomediastinal
   silhouette
   is unchanged. The lung volumes are low, lower than on the prior study
   with
   worsening of bibasilar opacities consistent with worsening of
   atelectasis.
   There is also interval increase in the bilateral pleural effusions that
   still
   may be explained by different position of the patient.
   No new consolidations worrisome for atelectasis, pneumonia or
   aspiration are
   demonstrated.
   Microbiology:
   [**2195-7-28**] 5:40 am BLOOD CULTURE    Pending
   [**2195-7-28**] 6:00 am URINE     Site: CATHETER
      URINE CULTURE (Final [**2195-7-29**]):    NO GROWTH.
   [**2195-7-28**] 8:01 am SWAB      Source: PEG TUBE/ABD.
      GRAM STAIN (Final [**2195-7-28**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST.
      WOUND CULTURE (Preliminary):
         Due to mixed bacterial types (>=3) an abbreviated workup is
         performed; P.aeruginosa, S.aureus and beta strep. are reported if
         present. Susceptibility will be performed on P.aeruginosa and
         S.aureus if sparse growth or greater..
         STAPH AUREUS COAG +.    MODERATE GROWTH.
   [**2195-7-28**] 6:05 am BLOOD CULTURE
      Blood Culture, Routine (Pending):
   [**2195-7-28**] 10:29 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2195-7-28**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
         1+    (<1 per 1000X FIELD):   BUDDING YEAST.
      RESPIRATORY CULTURE (Preliminary):    RARE GROWTH OROPHARYNGEAL
   FLORA.
   Assessment and Plan
   # Rash
   New, fine, confluent, erythematous rash on lower extremities and pelvis
   to waist, as well as on L arm. Likely drug rash v hypersensitivity to
   an environmental exposure, such as sheets.
   - D/c vancomycin, levaquine, and unasyn. Begin penicillin instead.
   - Sarna lotion prn for pruritis.
   # Respiratory Failure
   Failure developed following a gross aspiration event on Sunday. Pt is
   oxygenating well on current ventilation settings. CXR shows increased
   patchy opacities in lower lobes bilaterally, and stable patchy
   opacities in upper lobes. Chemical pneumonitis is likely given the
   rapidity with which the respiratory distress developed, as well as the
   fairly non-focal CXR. Pneumonia, pariticularly with anaerobes, is also
   likely developing though it is not yet clearly evident on the CXR and
   sputum culture showed only mouth flora. Chronic copious secretions in
   upper airways are likely causing Mr. [**Known lastname 3986**] loud rhonchi and
   contributing to his dyspnea.
   - D/c Vancomycin, Unasyn, & Levaquin given no evidence of infection
   with resistant organism. Begin penicillin instead.
   - Decrease FiO2 to 45%, then draw ABG.
   - Continue to follow WBC and temp for signs of developing infection.
   - Sedation w/Fentanyl & Versed.
   - Maintain intubation and frequent suctioning for pulmonary hygeine.
   - Talk to brother about idea of oversewing epiglottis and placing a
   trach in order to prevent aspiration events in the long term.
   # UTI
   Per nursing records, pt with no history of indwelling foley catheter at
   NH. UA here shows lg WBCs, mod leuks concerning for UTI, but urine cx
   showed no growth.
   - Repeat U/A and urine cx.
   # Hyperkalemia
   -Initial sample hemolyzed, did not prove to be real.
   # Seizure d/o
   On phenobarbital at home. No report of seizure like activity at NH,
   prior to episode of aspiration.
   - Phenobarbital level within therapeutic range.
   - Continue home regimen phenobarbitol.
   # Dementia
   Pt on no meds for advanced dementia, had previously been on celexa,
   remeron, zyprexa over a year ago.
   - No meds for now
   - Low dose remeron if agitation develops
   # Osteoarthritis
   Patient on APAP at NH for pain control, but does not appear
   uncomfortable now.
   - Hold off on oral pain meds while on sedation w/Fentanyl/Versed.
   - Reasses when patient extubated and off sedation.
   # Decubitus Ulcer
   Stage I decubitus ulcer on exam with no visible skin breakdown.
   - Air mattress, frequent repositioning q1 hr.
   # FEN
   - Restart tube feeds with home Jevity dose.
   - Nutrition consult to get input on tube feeds.
   - Consider possibily revising tube and placing J tube to decrease
   reoccurrence of aspiration v. oversewing glottis and placing trach for
   more definitive solution. Talk to brother and surgery regarding these
   options.
   - No evidence of hypernatremia, no FWF for now
   # Prophylaxis
   -continue home PPI
   -SQ Heparin
   -MOM for bowel regimen
   # Access
   - Peripheral IV x 2
   # Code
   - Full. Confirmed with brother yesterday.
   # Communication
    - [**First Name8 (NamePattern2) 3987**] [**Last Name (NamePattern1) 3988**] [**Telephone/Fax (1) 3989**], brother in [**Name (NI) **]
   Signed: [**First Name8 (NamePattern2) 3990**] [**Name (NI) 3991**], HMS 4
   Agree with above medical student assessment and plan.
   [**First Name8 (NamePattern2) 3992**] [**Last Name (NamePattern1) 3993**], MD
   ICU Care
   Nutrition:
   - Restart tube feeds with home Jevity dose.
   - Nutrition consult to get input on tube feeds.
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled, Comments: Pt was initially hyperglycemic for first 24 hours
   of ICU stay, but sugars have since normalized to low 100s.
   Lines:
   18 Gauge - [**2195-7-28**] 12:44 PM
   20 Gauge - [**2195-7-28**] 12:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments: Will talk to brother today about long term
   plan to prevent further aspiration events: oversew epiglottis and place
   trach v. trade g-tube for j-tube
   Code status: Full code
   Disposition:ICU
   15:34

2195-07-30 07:14:00 Physician Resident Progress Note
Chief Complaint: Pt sedated
   24 Hour Events:
 FEVER
 101.2
F - [**2195-7-30**] 04:00 AM, down to 98.8 by 8am. Previous
   fever was to 102.0 at 8am on [**2195-7-29**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2195-7-29**] 01:13 AM
   Vancomycin - [**2195-7-29**] 08:20 AM
   Levofloxacin - [**2195-7-29**] 10:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-7-30**] 12:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortablePain location: Difficult to fully
   assess given pt's dementia.
   Flowsheet Data as of  [**2195-7-30**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.1
C (98.8
   HR: 73 (73 - 93) bpm
   BP: 147/72(90) {94/46(58) - 152/92(106)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 90.1 kg
   Height: 69 Inch
             Total In:
                                                                    917 mL
                                                                    693 mL
   PO:
             TF:
                                                                    197 mL
                                                                    643 mL
   IVF:
                                                                    690 mL
                                                                     20 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    510 mL
   Urine:
                                                                  1,310 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -393 mL
                                                                    183 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 576 (435 - 5,223) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.47/39/95.[**Numeric Identifier 96**]/24/4
   Ve: 13.5 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   Softer than yesterday., Wheezes : Mild expiratory wheezes on L.,
   Rhonchorous: Inspiratory and expiratory. Less severe than yesterday.)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Contractures in all four extremities
   Skin:  Warm, No(t) Rash: , Rash from yesterday resolved.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): zero of three, Movement: Not assessed, Tone:
   Not assessed, Responds to voice.
   Labs / Radiology
   217 K/uL
   11.0 g/dL
   156 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   20 mg/dL
   105 mEq/L
   139 mEq/L
   32.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2195-7-28**]  08:56 AM
                             [**2195-7-28**]  09:40 AM
                             [**2195-7-29**]  02:26 AM
                             [**2195-7-29**]  09:05 PM
                             [**2195-7-30**]  06:21 AM
   WBC
   14.7
   8.7
   Hct
   34.1
   32.1
   Plt
   243
   217
   Cr
   0.9
   0.7
   0.7
   TCO2
   26
   29
   Glucose
   [**Telephone/Fax (3) 4018**]
   Other labs: PT / PTT / INR:15.1/34.1/1.3, Ca++:8.7 mg/dL, Mg++:2.0
   mg/dL, PO4:2.6 mg/dLFluid analysis / Other labs: U/A:
   Source: Catheter
   Color
   Yellow  Appear
   Cloudy  SpecGr
   1.022  pH
   5.0  Urobil
   Neg  Bili
   Neg
   Leuk
   Mod  Bld
   Sm  Nitr
   Neg  Prot
   100  Glu
   Neg  Ket
   Tr
   RBC
   0-2  WBC
   >50  Bact
   Mod  Yeast
   Occ  Epi
   Imaging: CXR: Not yet available or read.
   Microbiology: [**2195-7-29**] 1:28 pm SPUTUM      Source: Endotracheal.
                               **FINAL REPORT [**2195-7-29**]**
      GRAM STAIN (Final [**2195-7-29**]):
         >25 PMNs and >10 epithelial cells/100X field.
         Gram stain indicates extensive contamination with upper
   respiratory
         secretions. Bacterial culture results are invalid.
         PLEASE SUBMIT ANOTHER SPECIMEN.
      RESPIRATORY CULTURE (Final [**2195-7-29**]):
         TEST CANCELLED, PATIENT CREDITED.
   [**2195-7-28**] 8:01 am SWAB      Source: PEG TUBE/ABD.
      GRAM STAIN (Final [**2195-7-28**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST.
      WOUND CULTURE (Preliminary):
         Due to mixed bacterial types (>=3) an abbreviated workup is
         performed; P.aeruginosa, S.aureus and beta strep. are reported if
         present. Susceptibility will be performed on P.aeruginosa and
         S.aureus if sparse growth or greater..
         STAPH AUREUS COAG +.    MODERATE GROWTH.
   Blood cx pending from [**7-28**] and [**7-29**]
   Urine cx pending from [**7-29**]
   Assessment and Plan
   82yo man with hx of dementia, seizure d/o, chronic aspiration events
   with PEG since [**2-27**] who was transferred from rehab facility ([**Hospital 1072**]) in respiratory distress in the setting of an aspiration event.
 RESPIRATORY FAILURE, ACUTE
   Failure developed following a gross aspiration event on Sunday. Blood
   gas shows some alkalosis, possibly metabolic compensation for previous
   slight alkalosis. RSPI: 71 (yesterday 60). CXR from today shows some
   improvement in opacities bilaterally, and no clear infiltrative process
   suggestive of pneumonia. Copious secretions are relatively stable.
   Chemical pneumonitis is thus most likely. PE findings of rhonchi
   suggest significant upper airway inflammation.
   - Change bronchodilators to standing in effort to reduce large airway
   inflammation.
   - Consider inhaled steroid or anticholinergic if he remains very
   rhonchorus.
   - Decrease FiO2 to 40% and PS to 8 (not lower because ET tube is size
   6, thus will provide significant resistance), then draw ABG today.
   - Sedation w/ Fentanyl & Versed.
   - Continue frequent suctioning for pulmonary hygeine.
   - Two messages left for brother about idea of oversewing epiglottis and
   placing a trach in order to prevent aspiration events in the long term.
   Try [**Location (un) 223**] area number to contact him, as he may not be at FL home now.
 FEVER
   Spiked a temp to 101.2 this AM. Lung disease seems slightly improved,
   thus may not be the source of the fever. Alternative possibilities
   include pancreatitis, cholecystitis, UTI, or other yet unidentified
   infection.
   - Check AST, ALT, t-bili, d-bili, alk phos, amylase and lipase for
   possibility of inflammatory abdominal process.
   - F/u sputum cx.
   - F/u AM labs (drawn at 7am).
   - Continue Augmentin.
 URINARY TRACT INFECTION (UTI)
   Per nursing records, pt with no history of indwelling foley catheter at
   NH. UA times 2 shows lg WBCs, mod leuks concerning for UTI, but urine
   cx showed no growth.
   - F/u repeat urine cx.
 RASH
   Much better this AM. Likely represented a drug rash.
   - Continue augmentin.
   - Sarna lotion prn for pruritis.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   On phenobarbital at home. No report of seizure like activity at NH,
   prior to episode of aspiration.
   - Phenobarbital level within therapeutic range.
   - Continue home regimen phenobarbitol.
 SKIN BREAKDOWN (PRESENT AT ADMISSION)
   Stage I sacral ulcer, stage II R heel ulcer, stage I L ankle ulcer.
   - Air mattress, frequent repositioning q1 hr.
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Pt on no meds for advanced dementia, had previously been on celexa,
   remeron, zyprexa over a year ago.
   -          No meds for now
 ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
   Patient on APAP at NH for pain control, but does not appear
   uncomfortable now.
   - Hold off on oral pain meds while on sedation w/Fentanyl/Versed.
   - Reasses when patient extubated and off sedation.
   Nutrition:
   - Continue tube feeds with home Jevity dose.
   - Nutrition consult today to get input on tube feeds.
   - Consider possibily revising tube and placing J tube to decrease
   reoccurrence of aspiration v. oversewing glottis and placing trach for
   more definitive solution. Talk to brother and surgery regarding these
   options.
   - No evidence of hypernatremia, no FWF for now
   - Nutrition consult to get input on tube feeds.
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled, Comments: Pt was initially hyperglycemic for first 24 hours
   of ICU stay, but sugars have since normalized to low 100s.
   Lines:
   18 Gauge - [**2195-7-28**] 12:44 PM
   20 Gauge - [**2195-7-28**] 12:45 PM
   Code status: Full code
   Communication
    - [**First Name8 (NamePattern2) 3987**] [**Last Name (NamePattern1) 3988**] [**Telephone/Fax (1) 3989**], brother in [**Name (NI) **]
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2195-7-29**] 06:56 PM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   20 Gauge - [**2195-7-28**] 12:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: 2 messages left for brother. Continue effort
   to contact him.
   Message left for surgeon Dr. [**Last Name (STitle) 4012**] [**Name (STitle) 4013**] g-tube and plan for
   future control of secretions: [**Telephone/Fax (1) 3468**].
   Code status: Full code
   Signed: [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4
   [**2195-7-30**] ; noon
   12:04
   ------ Protected Section ------
   Pt seen and examined. I agree with the above assessment and plan as
   outlined above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3992**] [**Last Name (NamePattern1) 3993**], MD
   on:[**2195-7-30**] 12:05 ------

2195-07-31 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -fever of 100.9, did not reculture.
   -urine cult [**7-28**] negative.
   -poor SBT yesterday due to heavy secretions obstructing upper airways.
   -Spoke with patient
s brother and health care proxy. Brother is not
   interested in putting Mr. [**Known lastname **] through major procedures (such as
   oversewing epiglottis and placing trach) unless it is thought to be
   absolutely necessary to keep him from staying on a ventilator
   long-term. Brother would prefer to keep procedures to a minimum and
   return Mr. [**Known lastname **] to his pre-hospitalization state. However, he will
   think about this more and is amenable to reconsidering this if it seems
   that Mr. [**Known lastname **] will have repetitive aspiration events without a
   procedure.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2195-7-29**] 01:13 AM
   Vancomycin - [**2195-7-29**] 08:20 AM
   Levofloxacin - [**2195-7-29**] 10:04 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2195-7-31**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2195-7-31**] 12:00 AM
   Fentanyl - [**2195-7-31**] 12:00 AM
   Other medications:
   Review of systems is unchanged from admission
   Flowsheet Data as of  [**2195-7-31**] 02:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.9
C (98.4
   HR: 74 (72 - 87) bpm
   BP: 124/56(74) {100/50(62) - 160/82(103)} mmHg
   RR: 20 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 90.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,684 mL
                                                                  1,308 mL
   PO:
             TF:
                                                                  1,504 mL
                                                                  1,118 mL
   IVF:
                                                                     70 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    775 mL
   Urine:
                                                                  1,115 mL
                                                                    770 mL
   NG:
   5 mL
   Stool:
   Drains:
   Balance:
                                                                    569 mL
                                                                    533 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 378 (375 - 519) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.43/45/101/27/4
   Ve: 9.1 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Gen: Sedated but responsive to voice. Nasogastric tube in place.
   HEENT: NC/AT. PERRL.
   Chest: Inspiratory and expiratory rhonchi loudest over large airways.
   No crackles or wheezes.
   CVR: RRR. Nl S1, S2. No m/r/g.
   Abdomen: Soft, NT/ND abdomen.
   Extremities: Contractures in all four extremities. Warm, no clubbing,
   cyanosis, or edema.
   Neuro: Responds to voice, but does not follow commands. Grips hands
   when objects are placed in them, but has trouble releasing.
   Labs / Radiology
   230 K/uL
   12.6 g/dL
   146 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   17 mg/dL
   106 mEq/L
   142 mEq/L
   38.4 %
   6.6 K/uL
        [image002.jpg]
   [**2195-7-28**]  08:56 AM
                             [**2195-7-28**]  09:40 AM
                             [**2195-7-29**]  02:26 AM
                             [**2195-7-29**]  09:05 PM
                             [**2195-7-30**]  06:21 AM
                             [**2195-7-30**]  02:46 PM
                             [**2195-7-31**]  03:35 AM
                             [**2195-7-31**]  05:45 AM
   WBC
   14.7
   8.7
   6.6
   Hct
   34.1
   32.1
   38.4
   Plt
   243
   217
   230
   Cr
   0.9
   0.7
   0.7
   0.6
   0.7
   TCO2
   26
   29
   31
   Glucose
   [**Telephone/Fax (3) 4049**]73
   146
   Other labs:
   PT / PTT / INR:13.6/25.4/1.2
   ALT / AST:24/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:40/17,
   Albumin:3.1 g/dL, LDH:137 IU/L
   Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Micro:
[**2195-7-29**] 1:34 pm URINE      Source: Catheter.
   URINE CULTURE (Final [**2195-7-31**]):
      YEAST.    10,000-100,000 ORGANISMS/ML..
[**2195-7-29**] SPUTUM GRAM STAIN:
      >25 PMNs and >10 epithelial cells/100X field.
      Gram stain indicates extensive contamination with upper respiratory
      secretions. Bacterial culture results are invalid.
      PLEASE SUBMIT ANOTHER SPECIMEN.
   RESPIRATORY CULTURE (Final [**2195-7-29**]):
      TEST CANCELLED, PATIENT CREDITED.
[**2195-7-28**] 10:29 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2195-7-28**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   RESPIRATORY CULTURE (Preliminary):
      RARE GROWTH OROPHARYNGEAL FLORA.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
Blood cultures pending from [**7-28**] and [**7-29**].
   Imaging:
   [**7-31**] CXR final read pending. Looks slightly improved from yesterday, but
   with persistent upper lobe haziness bilaterally.
   Assessment and Plan
   82yo man with hx of dementia, seizure d/o, chronic aspiration events
   with PEG since [**2-27**] who was transferred from rehab facility ([**Hospital 1072**]) in respiratory distress in the setting of an aspiration event.
 RESPIRATORY FAILURE, ACUTE
   Failure developed following a gross aspiration event on Sunday. CXR
   from today shows some improvement, and no clear infiltrative process
   suggestive of pneumonia. Copious secretions are improved today. Pt
   tolerating lower vent settings. Chemical pneumonitis is thus most
   likely etiology of respiratory distress that brought Mr. [**Known lastname **] to
   the ICU. PE findings of rhonchi suggest significant upper airway
   inflammation.
   - Continue bronchodilators in effort to reduce large airway
   inflammation.
   - Sedation w/ Fentanyl & Versed while on vent.
   - Continue frequent suctioning for pulmonary hygeine.
   - Talk to gastroenterology to schedule PEG to j-tube conversion on
   Monday.
   - Communicate with brother again to clarify plan and wishes.
 FEVER
   Spiked a temp to 100.9 this AM, which is lower than past two mornings.
   Cultures have so far been unrevealing. Lung disease seems slightly
   improved, thus may not be the source of the fever. Pancreatitis,
   cholecystitis, and UTI are unlikely given normal lab values and urine
   cx.
   - Continue Augmentin.
 URINARY TRACT INFECTION (UTI)
   - UA times 2 shows lg WBCs, mod leuks concerning for UTI, but urine cx
   showed no growth.
   - Urine cx x 2 have been unreavealing.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   On phenobarbital at home. No report of seizure like activity at NH,
   prior to episode of aspiration.
   - Phenobarbital level within therapeutic range.
   - Continue home regimen phenobarbitol.
 SKIN BREAKDOWN (PRESENT AT ADMISSION)
   Stage I sacral ulcer, stage II R heel ulcer, stage I L ankle ulcer.
   - Air mattress, frequent repositioning q1 hr.
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Pt on no meds for advanced dementia, had previously been on celexa,
   remeron, zyprexa over a year ago.
   - No meds for now
 ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
   Patient on APAP at NH for pain control, but does not appear
   uncomfortable now.
   - Hold off on oral pain meds while on sedation w/Fentanyl/Versed.
   - Reassess when patient extubated and off sedation.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2195-7-30**] 01:00 PM 75 mL/hour
   Glycemic Control:  Regular ISS. Sugars reasonably controlled (below
   200).
   Lines:
   18 Gauge - [**2195-7-28**] 12:44 PM
   20 Gauge - [**2195-7-30**] 08:50 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: H2 blocker
   VAP:  Frequent suctioning
   Communication:  [**Last Name (un) 3988**] [**Telephone/Fax (1) 4064**], brother in [**Hospital3 **]. He
s not
   able to travel to [**Location (un) 223**] very easily.
   Code status: Full code
   Signed: [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4
   14:52
   ------ Protected Section ------
   Patient seen and discussed with team during rounds and agree with above
   plan.  Patient now extubated and doing well.  Plan for conversion of G
   tube to GJ tube by IR likely after the weekend, then return to [**Hospital1 169**].
   Antibiotics as above.  Dispo to floor tomorrow if continues to do well.
   ------ Protected Section Addendum Entered By:[**Name (NI) 263**] [**Last Name (NamePattern1) 4074**], MD
   on:[**2195-7-31**] 21:00 ------

2195-08-01 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2195-7-31**] 02:30 PM
   Low UOP (30 mL over 2 hrs) overnight, rec'd 250 mL NS, continued [**10-22**]
   mL/hr
   Breif episode irregular rhythm, resolved spontaneously
   Dc'd fentanyl, started ultram for sleep
   Discussed J-tube with family, order to have G-tube converted to J-tube
   by IR, may happen Monday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-7-29**] 08:20 AM
   Levofloxacin - [**2195-7-29**] 10:04 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2195-8-1**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2195-8-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-8-1**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 83 (74 - 106) bpm
   BP: 107/44(60) {94/43(57) - 153/72(90)} mmHg
   RR: 18 (18 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 90.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,834 mL
                                                                    718 mL
   PO:
             TF:
                                                                  1,614 mL
                                                                    438 mL
   IVF:
                                                                    100 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    175 mL
   Urine:
                                                                  1,070 mL
                                                                    175 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    759 mL
                                                                    543 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 378 (375 - 507) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 9.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   242 K/uL
   11.1 g/dL
   139 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   17 mg/dL
   107 mEq/L
   143 mEq/L
   33.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2195-7-28**]  08:56 AM
                             [**2195-7-28**]  09:40 AM
                             [**2195-7-29**]  02:26 AM
                             [**2195-7-29**]  09:05 PM
                             [**2195-7-30**]  06:21 AM
                             [**2195-7-30**]  02:46 PM
                             [**2195-7-31**]  03:35 AM
                             [**2195-7-31**]  05:45 AM
                             [**2195-8-1**]  02:11 AM
   WBC
   14.7
   8.7
   6.6
   11.6
   Hct
   34.1
   32.1
   38.4
   33.5
   Plt
   243
   217
   230
   242
   Cr
   0.9
   0.7
   0.7
   0.6
   0.7
   0.7
   TCO2
   26
   29
   31
   Glucose
   [**Telephone/Fax (3) 4049**]73
   146
   139
   Other labs: PT / PTT / INR:13.6/27.8/1.2, ALT / AST:24/26, Alk Phos / T
   Bili:82/0.1, Amylase / Lipase:40/17, Albumin:3.1 g/dL, LDH:137 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   82yo man with hx of dementia, seizure d/o, chronic aspiration events
   with PEG since [**2-27**] who was transferred from rehab facility ([**Hospital 1072**]) in respiratory distress in the setting of an aspiration event.
 RESPIRATORY FAILURE, ACUTE
   Failure developed following a gross aspiration event on Sunday. CXR
   from today shows some improvement, and no clear infiltrative process
   suggestive of pneumonia. Copious secretions are improved today. Pt
   tolerating lower vent settings. Chemical pneumonitis is thus most
   likely etiology of respiratory distress that brought Mr. [**Known lastname **] to
   the ICU. PE findings of rhonchi suggest significant upper airway
   inflammation.
   - Continue bronchodilators in effort to reduce large airway
   inflammation.
   - Sedation w/ Fentanyl & Versed while on vent.
   - Continue frequent suctioning for pulmonary hygeine.
   - Talk to gastroenterology to schedule PEG to j-tube conversion on
   Monday.
   - Communicate with brother again to clarify plan and wishes.
 FEVER
   Spiked a temp to 100.9 this AM, which is lower than past two mornings.
   Cultures have so far been unrevealing. Lung disease seems slightly
   improved, thus may not be the source of the fever. Pancreatitis,
   cholecystitis, and UTI are unlikely given normal lab values and urine
   cx.
   - Continue Augmentin.
 URINARY TRACT INFECTION (UTI)
   - UA times 2 shows lg WBCs, mod leuks concerning for UTI, but urine cx
   showed no growth.
   - Urine cx x 2 have been unreavealing.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   On phenobarbital at home. No report of seizure like activity at NH,
   prior to episode of aspiration.
   - Phenobarbital level within therapeutic range.
   - Continue home regimen phenobarbitol.
 SKIN BREAKDOWN (PRESENT AT ADMISSION)
   Stage I sacral ulcer, stage II R heel ulcer, stage I L ankle ulcer.
   - Air mattress, frequent repositioning q1 hr.
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Pt on no meds for advanced dementia, had previously been on celexa,
   remeron, zyprexa over a year ago.
   - No meds for now
 ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
   Patient on APAP at NH for pain control, but does not appear
   uncomfortable now.
   - Hold off on oral pain meds while on sedation w/Fentanyl/Versed.
   - Reassess when patient extubated and off sedation.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2195-7-31**] 05:00 PM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-8-1**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-08-01 12:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with transient decreased urine output overnight.
   Plans for J tube for Monday
 INVASIVE VENTILATION - STOP [**2195-7-31**] 02:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-8-1**] 12:00 AM
   Famotidine (Pepcid) - [**2195-8-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-8-1**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 89 (74 - 106) bpm
   BP: 109/55(67) {94/43(57) - 131/67(80)} mmHg
   RR: 24 (18 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 90.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,834 mL
                                                                  1,630 mL
   PO:
             TF:
                                                                  1,614 mL
                                                                    794 mL
   IVF:
                                                                    100 mL
                                                                    546 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    362 mL
   Urine:
                                                                  1,070 mL
                                                                    362 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    759 mL
                                                                  1,268 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 378 (378 - 507) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///26/
   Ve: 9.1 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   242 K/uL
   139 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   17 mg/dL
   107 mEq/L
   143 mEq/L
   33.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2195-7-28**]  08:56 AM
                             [**2195-7-28**]  09:40 AM
                             [**2195-7-29**]  02:26 AM
                             [**2195-7-29**]  09:05 PM
                             [**2195-7-30**]  06:21 AM
                             [**2195-7-30**]  02:46 PM
                             [**2195-7-31**]  03:35 AM
                             [**2195-7-31**]  05:45 AM
                             [**2195-8-1**]  02:11 AM
   WBC
   14.7
   8.7
   6.6
   11.6
   Hct
   34.1
   32.1
   38.4
   33.5
   Plt
   243
   217
   230
   242
   Cr
   0.9
   0.7
   0.7
   0.6
   0.7
   0.7
   TCO2
   26
   29
   31
   Glucose
   [**Telephone/Fax (3) 4049**]73
   146
   139
   Other labs: PT / PTT / INR:13.6/27.8/1.2, ALT / AST:24/26, Alk Phos / T
   Bili:82/0.1, Amylase / Lipase:40/17, Albumin:3.1 g/dL, LDH:137 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR--No new infiltrates
   Microbiology: Wound Culture-
   GNR on culture with final ID--suggesting Pseudomonas from wound culture
   only.
   Assessment and Plan
   83 yo male admit with respiratory failure and now with successful
   extubation.  He has shown clinical improvement in regards to
   respiratory failure.  What remains is concern for improvement
   clinically and will need decision on antibiotic course.
 LEUKOCYTOSIS and concern of pneumonia as source.  He has relatively
   minimal infiltrate in lower lobes bilaterally.  More convincing may be
   urinary tract infection at admission.  Wound culture in the setting of
   clean appearing site is less convincing for infection.
   -On Augmentin and complete 7 day course of antibiotics for pneumonia
   and UTI
   -Await final culture results from sputum
 RASH--When on Levo/Vanco/ZOsyn so antibiotics modified.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, ASPIRATION
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2195-7-31**] 05:00 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2195-8-1**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2195-08-01 17:07:00 Physician Resident Progress Note
Chief Complaint: pneumonitis
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2195-7-31**] 02:30 PM
   -Low UOP (30mL over 2 hrs) overnight, rec'd 250mL NS, continued
   10-30mL/hr, so repeat bolus
   -Brief episode irregular rhythm, resolved spontaneously
   -D/ced fentanyl, started ultram for sleep
   -Discussed J-tube with family, order to have G-tube converted to J-tube
   by IR, may happen Monday
   History obtained from Family / Friend
   Allergies:
   History obtained from Family / FriendNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2195-8-1**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2195-8-1**] 04:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-8-1**] 05:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (96.9
   HR: 75 (75 - 106) bpm
   BP: 105/48(61) {91/43(53) - 129/67(80)} mmHg
   RR: 23 (18 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 90.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,834 mL
                                                                  2,159 mL
   PO:
             TF:
                                                                  1,614 mL
                                                                  1,199 mL
   IVF:
                                                                    100 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    577 mL
   Urine:
                                                                  1,070 mL
                                                                    577 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    759 mL
                                                                  1,582 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   B/L), Transmitted upper airway sounds B/L
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Increased
   Labs / Radiology
   242 K/uL
   11.1 g/dL
   139 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   17 mg/dL
   107 mEq/L
   143 mEq/L
   33.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2195-7-28**]  08:56 AM
                             [**2195-7-28**]  09:40 AM
                             [**2195-7-29**]  02:26 AM
                             [**2195-7-29**]  09:05 PM
                             [**2195-7-30**]  06:21 AM
                             [**2195-7-30**]  02:46 PM
                             [**2195-7-31**]  03:35 AM
                             [**2195-7-31**]  05:45 AM
                             [**2195-8-1**]  02:11 AM
   WBC
   14.7
   8.7
   6.6
   11.6
   Hct
   34.1
   32.1
   38.4
   33.5
   Plt
   243
   217
   230
   242
   Cr
   0.9
   0.7
   0.7
   0.6
   0.7
   0.7
   TCO2
   26
   29
   31
   Glucose
   [**Telephone/Fax (3) 4049**]73
   146
   139
   Other labs: PT / PTT / INR:13.6/27.8/1.2, ALT / AST:24/26, Alk Phos / T
   Bili:82/0.1, Amylase / Lipase:40/17, Albumin:3.1 g/dL, LDH:137 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Imaging: FINDINGS: In comparison with study of [**7-31**], there is a somewhat
   poor
   inspiration but otherwise no definite change. No evidence of focal
   pneumonia.
   Cardiac silhouette remains within upper limits of normal in size, and
   there is
   continued tortuosity of the aorta. Due to the patient's _____ overlying
   the
   upper thorax, the presence or position of an endotracheal tube cannot
   be
   excluded.
   Microbiology: RESPIRATORY CULTURE (Final [**2195-8-1**]):
         RARE GROWTH OROPHARYNGEAL FLORA.
         PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
   Assessment and Plan
   82yo man with hx of dementia, seizure d/o, chronic aspiration events
   with PEG since [**2-27**] who was transferred from rehab facility ([**Hospital 1072**]) in respiratory distress in the setting of an aspiration event.
 RESPIRATORY FAILURE, ACUTE
   Failure developed following a gross aspiration event on Sunday. CXR
   from today shows some improvement, suggesting pneumonitis. Copious
   secretions are improved today. Chemical pneumonitis is thus most likely
   etiology of respiratory distress that brought Mr. [**Known lastname **] to the ICU.
   PE findings of rhonchi suggest significant upper airway inflammation.
   Pt having a lot of secretions today.
   - Continue bronchodilators in effort to reduce large airway
   inflammation.
   - Continue frequent suctioning for pulmonary hygeine.
   - Talk to gastroenterology to schedule PEG to j-tube conversion on
   Monday.
   - Communicate with brother again to clarify plan and wishes.
 FEVER
   Afebrile but bump in white count. Cultures have so far been
   unrevealing. Lung disease seems slightly improved, thus may not be the
   source of the fever. Pancreatitis, cholecystitis, and UTI are unlikely
   given normal lab values and urine cx.
   -continue augmenten  for 7 days for UTI/Pneumonitis
 URINARY TRACT INFECTION (UTI)
   - UA times 2 shows lg WBCs, mod leuks concerning for UTI, but urine cx
   showed no growth.
   - Urine cx x 2 have been unreavealing.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   On phenobarbital at home. No report of seizure like activity at NH,
   prior to episode of aspiration.
   - Phenobarbital level within therapeutic range.
   - Continue home regimen phenobarbitol.
 SKIN BREAKDOWN (PRESENT AT ADMISSION)
   Stage I sacral ulcer, stage II R heel ulcer, stage I L ankle ulcer.
   - Air mattress, frequent repositioning q1 hr.
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Pt on no meds for advanced dementia, had previously been on celexa,
   remeron, zyprexa over a year ago.
   - No meds for now
 ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
   Patient on APAP at NH for pain control, but does not appear
   uncomfortable now.
   - Hold off on oral pain meds while on sedation w/Fentanyl/Versed.
   - Reassess when patient extubated and off sedation.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2195-7-31**] 05:00 PM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-8-1**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2195-08-02 06:11:00 Physician Resident Progress Note
Chief Complaint:
   82yo man with hx of dementia, seizure d/o, chronic aspiration events
   with PEG since [**2-27**] who was transferred from rehab facility ([**Hospital 1072**]) in respiratory distress in the setting of an aspiration event.
   24 Hour Events:
   -no events, didn
t go to floor yesterday because of secretions that
   would have been hard to manage on the floord
   -d/c Monday back to rehab
   Subjective:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Augmentin (day 5)
   Infusions:
   None.
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-8-2**] 12:00 AM
   Famotidine (Pepcid) - [**2195-8-2**] 12:00 AM
   Other medications:
   Flowsheet Data as of  [**2195-8-2**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.6
C (96.1
   HR: 74 (74 - 89) bpm
   BP: 88/48(57) {88/38(52) - 132/62(80)} mmHg
   RR: 20 (17 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.4 kg (admission): 90.1 kg
   Height: 70 Inch
             Total In:
                                                                  2,903 mL
                                                                    523 mL
   PO:
             TF:
                                                                  1,773 mL
                                                                    461 mL
   IVF:
                                                                    670 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                    847 mL
                                                                    300 mL
   Urine:
                                                                    847 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,056 mL
                                                                    223 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Awake and responsive to verbal questions and
   commands. Well nourished, No acute distress.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Wheezes : long expiratory, Rhonchorous: noisy rattling of upper
   airway secretions), Use of accessory muscles of respiration,
   particularly upon exhale. Pt is not able to cough sufficiently to clear
   upper airway secretions.
   Abdominal: Soft, Belly tense and contracted upon exhale.
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Increased
   Labs / Radiology
   212 K/uL
   11.0 g/dL
   133 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   16 mg/dL
   109 mEq/L
   143 mEq/L
   31.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2195-7-28**]  08:56 AM
                             [**2195-7-28**]  09:40 AM
                             [**2195-7-29**]  02:26 AM
                             [**2195-7-29**]  09:05 PM
                             [**2195-7-30**]  06:21 AM
                             [**2195-7-30**]  02:46 PM
                             [**2195-7-31**]  03:35 AM
                             [**2195-7-31**]  05:45 AM
                             [**2195-8-1**]  02:11 AM
                             [**2195-8-2**]  03:08 AM
   WBC
   14.7
   8.7
   6.6
   11.6
   9.4
   Hct
   34.1
   32.1
   38.4
   33.5
   31.7
   Plt
   243
   217
   230
   242
   212
   Cr
   0.9
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   TCO2
   26
   29
   31
   Glucose
   [**Telephone/Fax (3) 4049**]73
   146
   139
   133
   Other labs:
   PT / PTT / INR:13.8/27.9/1.2
   ALT / AST:24/26
   Alk Phos / T Bili:82/0.1
   Amylase / Lipase:40/17
   Albumin:3.1 g/dL, LDH:137 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   CXR:
   In comparison with the study of [**8-1**], there is little change. No
   definite evidence of focal pneumonia. The areas of apparent
   opacification in
   the upper zones, most likely represent summation shadows of overlying
   bony
   structures.
   Assessment and Plan
   82yo man with hx of dementia, seizure d/o, chronic aspiration events
   with PEG since [**2-27**] who was transferred from rehab facility ([**Hospital 1072**]) in respiratory distress in the setting of an aspiration event.
 RESPIRATORY FAILURE, ACUTE
   Failure developed following a gross aspiration event on Sunday.
   Chemical pneumonitis was the most likely etiology of the respiratory
   distress that brought Mr. [**Known lastname **] to the ICU. Today, breathing is
   labored and pt has a lot of secretions in upper airways that he is not
   able to clear because he doesn
t have an effective cough. Desaturates
   to low 90% when laboring to clear secretions. Nurse has not been able
   to drop a nasotracheal tube to manage secretions. CXR from today shows
   slight increased haziness of upper lobes. However WBC count down, pt is
   afebrile.
   - Continue bronchodilators in effort to reduce large airway
   inflammation.
   - Continue frequent suctioning for pulmonary hygiene.
   - Keep i/o
s even today to avoid developing pulmonary edema.
   - PEG to j-tube conversion on Monday.
   - Consider scopolamine patch or nortriptylline to decrease secretions
   if PEC to j-tube conversion doesn
t help sufficiently.
 Decreased hematocrit
   Down to 31.7 from 33.5 yesterday, 38.4 on [**7-31**], and 32.1 on [**7-30**]. Pt was
   up 2L yesterday. No clear source of bleeding. MCV normal and no clear
   reason to believe there
s decreased production.
   -          Re-check today at 3pm.
   -          Consider stool guaiac.
   -          Consider hemolysis labs (haptoglobin, LDH).
 FEVER
   Afebrile and white count down from 11.6 to 9.4 today. Cultures have
   shown only oropharyngeal secretions.
   -Continue augmenten  for total of 7 days for UTI/Pneumonitis
 URINARY TRACT INFECTION (UTI): Pt is afebrile.
   - UA times 2 shows lg WBCs, mod leuks concerning for UTI, but urine cx
   x 2 showed no growth.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   On phenobarbital at home. No report of seizure like activity at NH,
   prior to episode of aspiration.
   - Phenobarbital level within therapeutic range.
   - Continue home regimen phenobarbitol.
 SKIN BREAKDOWN (PRESENT AT ADMISSION)
   Stage I sacral ulcer, stage II R heel ulcer, stage I L ankle ulcer.
   - Air mattress, frequent repositioning q1 hr.
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Pt on no meds for advanced dementia, had previously been on celexa,
   remeron, zyprexa over a year ago.
   - No meds for now
 ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
   Patient on APAP at NH for pain control, but does not appear
   uncomfortable now.
   - Hold off on oral pain meds while on sedation w/Fentanyl/Versed.
   - Reassess when patient extubated and off sedation.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2195-7-31**] 05:00 PM 75 mL/hour
   Glycemic Control:  ISS. Well controlled, with sugars below 200.
   Lines:
   20 Gauge - [**2195-8-1**] 04:00 AM
   20 Gauge
 [**2195-7-30**]
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   Signed: [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4
   11:32
   ------ Protected Section ------
   Agree with progress note as above. Pt awaiting G
 J tube conversion
   tomorrow. Nursing reports pt still with high residuals and at high risk
   for aspiration. Continue to keep HOB 30 degrees and hold TF for now.
   Pt with continued exp wheezes, and moderate resp distress. Plan to
   continue Albuterol/Atrovent nebs, and consider course of pulse dose
   steroids if respiratory status worsens.  Dispo: d/c back to rehab after
   G
 J tube placement.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4112**] [**Last Name (NamePattern1) **], MD
   on:[**2195-8-2**] 12:20 ------

2195-08-02 10:22:00 Physician Attending Progress Note
Chief Complaint: Aspiration Pneumonitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued brisk sputum production and frequent suctioning required
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2195-8-2**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2195-8-2**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2195-8-2**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (96.9
   HR: 85 (74 - 89) bpm
   BP: 113/54(66) {88/38(52) - 132/62(80)} mmHg
   RR: 26 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 90.1 kg
   Height: 70 Inch
             Total In:
                                                                  2,903 mL
                                                                    896 mL
   PO:
             TF:
                                                                  1,773 mL
                                                                    764 mL
   IVF:
                                                                    670 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                    847 mL
                                                                    570 mL
   Urine:
                                                                    847 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,056 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: Loud upper airway rhonchi and ineffective cough noted
   during exam), Prolonged expiratory phase
he has extubation continuing
   to the time of initiation of the next breath.  Clear bronchospasm seen.
   Abdominal: Soft
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   212 K/uL
   133 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   16 mg/dL
   109 mEq/L
   143 mEq/L
   31.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2195-7-28**]  08:56 AM
                             [**2195-7-28**]  09:40 AM
                             [**2195-7-29**]  02:26 AM
                             [**2195-7-29**]  09:05 PM
                             [**2195-7-30**]  06:21 AM
                             [**2195-7-30**]  02:46 PM
                             [**2195-7-31**]  03:35 AM
                             [**2195-7-31**]  05:45 AM
                             [**2195-8-1**]  02:11 AM
                             [**2195-8-2**]  03:08 AM
   WBC
   14.7
   8.7
   6.6
   11.6
   9.4
   Hct
   34.1
   32.1
   38.4
   33.5
   31.7
   Plt
   243
   217
   230
   242
   212
   Cr
   0.9
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   TCO2
   26
   29
   31
   Glucose
   [**Telephone/Fax (3) 4049**]73
   146
   139
   133
   Other labs: PT / PTT / INR:13.8/27.9/1.2, ALT / AST:24/26, Alk Phos / T
   Bili:82/0.1, Amylase / Lipase:40/17, Albumin:3.1 g/dL, LDH:137 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR-
   Suggestion of increased infiltrate in LUL and superior margin of left
   hilum
   Assessment and Plan
   83 yo male admit with signicant aspiration event now with continued
   secretion volume requiring close nursing care.  He has a largely
   ineffective cough but with a high volume of secretions in the setting
   of previous and concerning for current aspiration events.
   Aspiration Pneumonia-
   -Augmentin
   -Continue with aspiration precautions
   -Continue pulmonary toilet
   -Elevate HOB
   -Doubt evolution of new and worsening infection
   -PEG to PEJ tomorrow
   Obstructive Pulmonary Disease-
   -Albuterol/Atrovent
   -Minimize aspiration
   -Continue antibiotics
 LEUKOCYTOSIS
 RASH
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, ASPIRATION
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2195-8-1**] 05:22 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2195-8-1**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2195-08-03 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -HCT increased from 31.7 yesterday AM to 32.3 yesterday PM to 36 this
   AM.
   - PO2 droped to high 80s on 70% FI02, check ABG, increased frequency of
   nebs to albuteral q2h and atrovent to q4h, began steroid taper.
   - Pseudomonas in sputum from [**7-28**]. Started ceftazidime yesterday, for 2
   week course.
   - Poor response of UO to lasix 20 PO, gave additional 40 PO lasix with
   hope of making neg for day to prevent worsening respiratory status with
   pulmonary edema.
   - Scheduled for IR PEG to j-tube conversion today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2195-8-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-8-3**] 12:00 AM
   Famotidine (Pepcid) - [**2195-8-3**] 12:00 AM
   Furosemide (Lasix) - [**2195-8-3**] 12:00 AM
   Flowsheet Data as of  [**2195-8-3**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 68 (67 - 92) bpm
   BP: 103/57(69) {88/42(53) - 143/63(102)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 90.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,886 mL
                                                                    170 mL
   PO:
             TF:
                                                                  1,596 mL
   IVF:
                                                                    170 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,335 mL
                                                                  1,055 mL
   Urine:
                                                                  1,335 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    551 mL
                                                                   -885 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 93%
   ABG: 7.45/42/105/27/4
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Thin,
   No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : long expiratory,
   Rhonchorous: rattling large airway secretions), Intermittently uses
   accessory muscles upon expiration.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, sleepy but minimally
   responsive to voice
   Labs / Radiology
   251 K/uL
   11.8 g/dL
   154 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.8 mEq/L
   19 mg/dL
   106 mEq/L
   141 mEq/L
   36.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2195-7-29**]  09:05 PM
                             [**2195-7-30**]  06:21 AM
                             [**2195-7-30**]  02:46 PM
                             [**2195-7-31**]  03:35 AM
                             [**2195-7-31**]  05:45 AM
                             [**2195-8-1**]  02:11 AM
                             [**2195-8-2**]  03:08 AM
                             [**2195-8-2**]  04:19 PM
                             [**2195-8-2**]  11:54 PM
                             [**2195-8-3**]  03:11 AM
   WBC
   8.7
   6.6
   11.6
   9.4
   9.2
   Hct
   32.1
   38.4
   33.5
   31.7
   32.3
   36.0
   Plt
   [**Telephone/Fax (3) 4141**]12
   251
   Cr
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   TCO2
   29
   31
   30
   Glucose
   156
   173
   146
   139
   133
   154
   Other labs: PT / PTT / INR:13.5/25.8/1.2, ALT / AST:24/26, Alk Phos / T
   Bili:82/0.1, Amylase / Lipase:40/17, Albumin:3.1 g/dL, LDH:137 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   MICRO:
[**2195-7-29**] 1:28 pm SPUTUM
   GRAM STAIN:
      >25 PMNs and >10 epithelial cells/100X field.
      Gram stain indicates extensive contamination with upper respiratory
      secretions. Bacterial culture results are invalid.
   RESPIRATORY CULTURE:
      TEST CANCELLED.
   [**7-29**] BLOOD CULTUE x 2 pending
[**2195-7-29**] 1:34 pm URINE CULTURE:
      YEAST.    10,000-100,000 ORGANISMS/ML.
[**2195-7-28**] 10:29 am SPUTUM
   GRAM STAIN:
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   RESPIRATORY CULTURE:
      RARE GROWTH OROPHARYNGEAL FLORA.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
SENSITIVITIES: MIC expressed in MCG/ML
   PSEUDOMONAS AERUGINOSA
                             |
AMIKACIN--------------    16 S
CEFEPIME--------------     8 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------   0.5 S
PIPERACILLIN----------     8 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------  =>16 R
[**2195-7-28**] 6:05 am BLOOD CULTURE Pending
[**2195-7-28**] 6:00 am URINE CULTURE:    NO GROWTH.
[**2195-7-28**] 5:40 am BLOOD CULTURE   Pending
   CXR: Low lung volumes. Slight improvement of airway haziness since
   yesterday, particularly on left side. No focal opacity.
   ASSESSMENT AND PLAN:
   82yo man with hx of dementia, seizure d/o, chronic aspiration events
   with PEG since [**2-27**] who was transferred from rehab facility ([**Hospital 1072**]) in respiratory distress in the setting of an aspiration event.
 RESPIRATORY FAILURE, ACUTE
   Failure developed following a gross aspiration event on Sunday.
   Chemical pneumonitis was the most likely etiology of the respiratory
   distress that brought Mr. [**Known lastname **] to the ICU. Today, breathing is
   labored and pt has a lot of secretions in upper airways that he is not
   able to clear because he doesn
t have an effective cough. Desaturates
   to low 90% when laboring to clear secretions. Nurse has not been able
   to drop a nasotracheal tube to manage secretions. CXR from today is
   stable. WBC count down, pt is afebrile.
   - Sputum culture from [**7-28**] showed pseudomonas. Continue ceftazidime for
   total of 2 week course.
   - Continue frequent bronchodilators in effort to reduce large airway
   inflammation.
   - Continue scopolamine patch in hopes of decreasing oropharyngeal
   secretions.
   - Mine chart for evidence of COPD, reassess physical exam for wheezes,
   and continue steroid taper only if pt thought to benefit.
   - Continue frequent suctioning and chest PT for pulmonary hygiene.
   - Keep i/o
s even today to avoid developing pulmonary edema; use lasix
   as needed (60 PO required yesterday).
   - PEG to j-tube conversion today.
 Decreased hematocrit
   Increased from 31.7 to 32.3 to 36 yesterday. [**Month (only) 60**] have been dilutional,
   as pt was up 2L day before yesterday when crit dropped. No clear source
   of bleeding. MCV normal and no clear reason to believe there
   decreased production.
   -          Continue to follow on AM labs.
 FEVER
   Pt now afebrile and white count down. Cultures from [**7-28**] showed
   pseudomonas.
   -Continue augmenten  for total of 7 days for UTI/Pneumonitis
 URINARY TRACT INFECTION (UTI): Pt is afebrile.
   - UA times 2 shows lg WBCs, mod leuks concerning for UTI, but urine cx
   x 2 showed no growth.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   On phenobarbital at home. No report of seizure like activity at NH,
   prior to episode of aspiration.
   - Recheck phenobarbitol level.
   - Continue home regimen phenobarbitol.
 SKIN BREAKDOWN (PRESENT AT ADMISSION)
   Stage I sacral ulcer, stage II R heel ulcer, stage I L ankle ulcer.
   - Air mattress, frequent repositioning q1 hr.
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Pt on no meds for advanced dementia, had previously been on celexa,
   remeron, zyprexa over a year ago.
   - No meds for now
 ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
   Patient on APAP at NH for pain control, but does not appear
   uncomfortable now.
   - Hold off on oral pain meds while on sedation w/Fentanyl/Versed.
   - Reassess when patient extubated and off sedation.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2195-7-31**] 05:00 PM 75 mL/hour
   Glycemic Control:  ISS. Well controlled, with sugars below 200.
   Lines:
   20 Gauge - [**2195-8-1**] 04:00 AM
   20 Gauge
 [**2195-7-30**]
   Place midline or PICC line for 2 week delivery of ceftazidime.
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Talk to PCP and case management about the possibility of
   returning straight to his nursing home from ICU tomorrow if respiratory
   status is stable.
   Signed: [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4
   11:21
   ------ Protected Section ------
   Pt seen and examined this morning.
   S: Hypoxia as above
   O:
   Gen: Asleep, responds to name
   HEENT: NCAT, mucous membranes moist
   Chest: Wheezes bl
   CV: nl S1 S2
   Abd: soft, ND
   Ext: trace edema, pneumoboots
   Agree with above assessment and plan.
   Will increase nebs
   G-tube to J-tube today
   Discuss with case management
   Discuss utility of steroids for COPD
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 413**], MD
   on:[**2195-8-3**] 01:38 PM ------

2195-08-04 05:42:00 Physician Resident Progress Note
24 Hour Events:
   G-tube changed to J-tube by IR, okay to use per note
   Will be seen for Midline/PICC [**8-4**]
   No history of COPD in available records, d/c'd steroids
   Case management aware that he may be discharged soon, check in with
   them regarding return directly to [**Hospital3 **] and timeline
   Subjective: Denies pain. No distress.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2195-8-4**] 12:00 AM
   Day 3
   Infusions: None
   Other ICU medications:
   Furosemide (Lasix) - [**2195-8-3**] 02:04 PM
   Famotidine (Pepcid) - [**2195-8-3**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2195-8-4**] 12:00 AM
   Flowsheet Data as of  [**2195-8-4**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 87 (82 - 100) bpm
   BP: 119/60(72) {84/38(53) - 138/79(88)} mmHg
   RR: 20 (19 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 90.1 kg
   Height: 70 Inch
             Total In:
                                                                    566 mL
                                                                    386 mL
   PO:
             TF:
             36 mL
   IVF:
                                                                    316 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                    495 mL
   Urine:
                                                                  2,410 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,344 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: 2L by nasal cannula
   SpO2: 93%
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , Wheezes : expiratory, No(t)
   Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Increased
   Labs / Radiology
   291 K/uL
   11.5 g/dL
   140 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   24 mg/dL
   105 mEq/L
   143 mEq/L
   34.8 %
   10.3 K/uL
        [image002.jpg]
                             [**2195-7-30**]  06:21 AM
                             [**2195-7-30**]  02:46 PM
                             [**2195-7-31**]  03:35 AM
                             [**2195-7-31**]  05:45 AM
                             [**2195-8-1**]  02:11 AM
                             [**2195-8-2**]  03:08 AM
                             [**2195-8-2**]  04:19 PM
                             [**2195-8-2**]  11:54 PM
                             [**2195-8-3**]  03:11 AM
                             [**2195-8-4**]  05:00 AM
   WBC
   8.7
   6.6
   11.6
   9.4
   9.2
   10.3
   Hct
   32.1
   38.4
   33.5
   31.7
   32.3
   36.0
   34.8
   Plt
   [**Telephone/Fax (2) 4208**]
   Cr
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   0.9
   TCO2
   31
   30
   Glucose
   156
   173
   146
   139
   133
   154
   140
   Other labs: PT / PTT / INR:13.8/20.9/1.2, ALT / AST:24/26, Alk Phos / T
   Bili:82/0.1, Amylase / Lipase:40/17, Albumin:3.1 g/dL, LDH:137 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Phenobarbitol = 19.6
   No new micro results today
   CXR:
   There is no interval change.
   Cardiomediastinal silhouette is stable in this patient with an S-shaped
   thoracolumbar scoliosis. Patchy opacities in the upper
   zones bilaterally most likely reflects summation shadows rather than
   focal
   regions of pneumonia. Pulmonary vascularity is within normal limits and
   there
   is no evidence of pleural effusion.
   Assessment and Plan
   82yo man with hx of dementia, seizure d/o, chronic aspiration events
   with PEG since [**2-27**] who was transferred from rehab facility ([**Hospital 1072**]) in respiratory distress in the setting of an aspiration event.
 RESPIRATORY FAILURE, ACUTE
   Failure developed following a gross aspiration event on Sunday.
   Chemical pneumonitis was the most likely etiology of the respiratory
   distress that brought Mr. [**Known lastname **] to the ICU. Today, breathing is
   labored and pt has a lot of secretions in upper airways that he is not
   able to clear because he doesn
t have an effective cough. Desaturates
   to low 90% when laboring to clear secretions, however nurses have been
   able to manage secretions with suctioning every few hours. CXR from
   today is stable. WBC count down, pt is afebrile.
   - Sputum culture from [**7-28**] showed pseudomonas. Continue ceftazidime for
   total of 2 week course, via new midline that was placed this morning.
   - Continue frequent bronchodilators in effort to reduce large airway
   inflammation.
   - Continue scopolamine patch in hopes of decreasing oropharyngeal
   secretions.
   - Continue to hold steroids, as pt has no hx of COPD and exam is stable
   without them.
   - Continue frequent suctioning and chest PT for pulmonary hygiene.
   - Keep i/o
s even today to avoid developing pulmonary edema; use lasix
   as needed.
 Decreased hematocrit
   Increased to 36 then 34.8 this AM. No clear source of bleeding (Guaiac
   negative). MCV normal and no clear reason to believe there
s decreased
   production. Thus previous drop in hct have been dilutional.
   - Continue to follow on AM labs.
 FEVER
   Pt now afebrile and white count down. Cultures from [**7-28**] showed
   pseudomonas.
   -Continue ceftazidime for total of 14d course.
 URINARY TRACT INFECTION (UTI): Pt is afebrile.
   - UA times 2 shows lg WBCs, mod leuks concerning for UTI, but urine cx
   x 2 showed no growth.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   On phenobarbital at home. No report of seizure like activity at NH,
   prior to episode of aspiration.  Phenobarbitol level therapeutic.
   - Continue home regimen phenobarbitol.
 SKIN BREAKDOWN (PRESENT AT ADMISSION)
   Stage I sacral ulcer, stage II R heel ulcer, stage I L ankle ulcer.
   - Air mattress, frequent repositioning q1 hr.
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Pt on no meds for advanced dementia, had previously been on celexa,
   remeron, zyprexa over a year ago.
   - No meds for now
 ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
   Patient on APAP at NH for pain control, but does not appear
   uncomfortable now.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2195-7-31**] 05:00 PM 75 mL/hour
   Glycemic Control:  ISS. Well controlled, with sugars below 200.
   Lines:
   20 Gauge - [**2195-8-1**] 04:00 AM
   20 Gauge
 [**2195-7-30**]
   Place midline or PICC line for 2 week delivery of ceftazidime.
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Talk to case management about returning to his nursing
   home from ICU today.
   [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4
   12:11

2195-08-05 06:14:00 Physician Resident Progress Note
Chief Complaint:
   83yo man with hx of dementia, seizure d/o, chronic aspiration events
   with PEG since [**2-27**] who was transferred from rehab facility ([**Hospital 1072**]) in respiratory distress in the setting of an aspiration event.
   24 Hour Events:
 MIDLINE - START [**2195-8-4**] 09:04 AM. Received ceftazidime through it.
 WOUND CULTURE - At [**2195-8-4**] 08:19 PM. Moderate amount of tan-brown
   purulence around j-tube site. Afebrile and VSS. Wound cultured.
 Had low uop over 4 hours. Got 500mL NS. UOP up to 30mL/hour.
 Had short asymptomatic 20 second run of SVT after getting an
   albuterol inhaler. Changed frequency of nebs from Q2H to Q6H.
 Nursing home staff came to evaluate him yesterday. At that time his
   tube feeds had not yet been restarted. They requested that he
   restarted on his tube feeds and watched overnight before they take him
   back today.
   Subjective:
   Comfortable, without pain. No dyspnea. Some discomfort at j-tube
   insertion site, but does not recoil back to pressure there.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**8-5**],  Day 4
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-8-5**] 12:00 AM
   Flowsheet Data as of  [**2195-8-5**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36
C (96.8
   HR: 71 (71 - 91) bpm
   BP: 97/40(54) {92/38(54) - 124/87(90)} mmHg
   RR: 21 (19 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 90.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,215 mL
                                                                  1,051 mL
   PO:
             TF:
                                                                    615 mL
                                                                    421 mL
   IVF:
                                                                    420 mL
                                                                    631 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    210 mL
   Urine:
                                                                    750 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    465 mL
                                                                    841 mL
   Respiratory support
   O2 Delivery Device: 2L by nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Bronchial: , Wheezes : very slight expiratory wheezes, No(t)
   Diminished: , No(t) Absent : , Rhonchorous: slight )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: Slight
   tenderness around j-tube site, but pt does not recoil to palpation.
   Nickel-sized amount of purulent and slightly bloody material on
   dressing, but none visibly coming from wound. No unusual erythema or
   swelling.
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Increased
   Labs / Radiology
   291 K/uL
   11.5 g/dL
   174 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.7 mEq/L
   24 mg/dL
   108 mEq/L
   144 mEq/L
   34.8 %
   10.3 K/uL
        [image002.jpg]
                             [**2195-7-30**]  02:46 PM
                             [**2195-7-31**]  03:35 AM
                             [**2195-7-31**]  05:45 AM
                             [**2195-8-1**]  02:11 AM
                             [**2195-8-2**]  03:08 AM
                             [**2195-8-2**]  04:19 PM
                             [**2195-8-2**]  11:54 PM
                             [**2195-8-3**]  03:11 AM
                             [**2195-8-4**]  05:00 AM
                             [**2195-8-5**]  05:07 AM
   WBC
   6.6
   11.6
   9.4
   9.2
   10.3
   Hct
   38.4
   33.5
   31.7
   32.3
   36.0
   34.8
   Plt
   230
   242
   212
   251
   291
   Cr
   0.6
   0.7
   0.7
   0.6
   0.7
   0.9
   0.8
   TCO2
   31
   30
   Glucose
   173
   146
   139
   133
   154
   140
   174
   Other labs:
    PT / PTT / INR:14.9/24.9/1.3
   Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Micro:
[**2195-7-28**] 6:05 am BLOOD CULTURE
   Blood Culture, Routine (Final [**2195-8-3**]):    NO GROWTH.
[**2195-7-29**] 1:34 pm BLOOD CULTURE      Source: Venipuncture.
   Blood Culture, Routine (Final [**2195-8-4**]):    NO GROWTH.
[**2195-7-29**] 1:34 pm BLOOD CULTURE      Source: Venipuncture.
   Blood Culture, Routine (Final [**2195-8-4**]):    NO GROWTH.
[**2195-8-4**] 6:38 am SPUTUM      Source: Induced.
   GRAM STAIN (Final [**2195-8-4**]):
      [**10-17**] PMNs and >10 epithelial cells/100X field.
      Gram stain indicates extensive contamination with upper respiratory
      secretions. Bacterial culture results are invalid.
      PLEASE SUBMIT ANOTHER SPECIMEN.
   RESPIRATORY CULTURE (Final [**2195-8-4**]):
      TEST CANCELLED, PATIENT CREDITED.
[**2195-8-4**] 8:45 pm SWAB      Source: j tube site.
   GRAM STAIN (Final [**2195-8-5**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
         WOUND CULTURE (Pending)
   Assessment and Plan
   83yo man with hx of dementia, seizure d/o, chronic aspiration events
   with PEG since [**2-27**] who was transferred from rehab facility ([**Hospital 1072**]) in respiratory distress in the setting of an aspiration event.
 RESPIRATORY FAILURE, ACUTE
   Failure developed following a gross aspiration event on Sunday.
   Chemical pneumonitis was the most likely etiology of the respiratory
   distress that brought Mr. [**Known lastname **] to the ICU. Today, breathing is
   labored and pt has a lot of secretions in upper airways that he is not
   able to clear because he doesn
t have an effective cough. Desaturates
   to low 90% when laboring to clear secretions, however nurses have been
   able to manage secretions with suctioning every few hours. CXR from
   today is stable. WBC count down, pt is afebrile.
   - Sputum culture from [**7-28**] showed pseudomonas. Continue ceftazidime for
   total of 2 week course, via new midline that was placed this morning.
   - Exchange albuterol for xopinex prn for wheezing. Xopinex has more
   airway selectivity which will hopefully help avoid SVT.
   - Continue scopolamine patch in hopes of decreasing oropharyngeal
   secretions.
   - Continue to hold steroids, as pt has no hx of COPD and exam is stable
   without them.
   - Continue suctioning and chest PT for pulmonary hygiene.
   - Keep i/o
s even today to avoid developing pulmonary edema; use lasix
   as needed.
 Purulence from j-tube site
   Moderate amount of tan-brown purulence. Wound gram stain showed 2+ PMNs
   and 1+ yeast. Pt remained afebrile and WBC relatively stable. Only
   minor exudate this AM and some tenderness. Drainage is likely because
   tube was down-sized when PEG was converted to j-tube, thus oozing is
   likely to continue as site heals slowly.
   - reassure nursing home that oozing does not necessarily indicate
   dangerous infection.
   - monitor for signs of infection.
   - keep dressing clean, dry, and intact.
   - f/u wound culture.
 Decreased hematocrit
   Increased to 36 then 34.8 this AM. No clear source of bleeding (Guaiac
   negative). MCV normal and no clear reason to believe there
s decreased
   production. Thus previous drop in hct have been dilutional.
   - Continue to follow on AM labs.
 FEVER
   Pt now afebrile and white count down. Cultures from [**7-28**] showed
   pseudomonas.
   -Continue ceftazidime for total of 14d course.
 URINARY TRACT INFECTION (UTI): Pt is afebrile.
   - UA times 2 shows lg WBCs, mod leuks concerning for UTI, but urine cx
   x 2 showed no growth.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   On phenobarbital at home. No report of seizure like activity at NH,
   prior to episode of aspiration.  Phenobarbitol level therapeutic.
   - Continue home regimen phenobarbitol.
 SKIN BREAKDOWN (PRESENT AT ADMISSION)
   Stage I sacral ulcer, stage II R heel ulcer, stage I L ankle ulcer.
   - Air mattress, frequent repositioning q1 hr.
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Pt on no meds for advanced dementia, had previously been on celexa,
   remeron, zyprexa over a year ago.
   - No meds for now
 ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
   Patient on APAP at NH for pain control, but does not appear
   uncomfortable now.
 FEN
   Continue fluid boluses as needed to maintain urine output roughly
   30cc/hr and I
s roughly even.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2195-7-31**] 05:00 PM 75 mL/hour
   Glycemic Control:  ISS. Well controlled, with sugars below 200.
   Lines:
   Midline R antecubital [**8-4**]
   22 gauge L anterior forearm [**8-3**]
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Communication:  Comments: Brother in [**Hospital3 **].
   Code status: Full code
   Disposition: Return to nursing home from ICU today. I
ll call his
   brother today to inform him.
   [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4
   12:32